US08859765B2
Bis(2-bromoethyl)ether (18.3 mL, 146 mmol) was added to a solution of (1S,2R,4R)—N-benzyl-2-amino-7,7-dimethylbicyclo[2.2.1]hept-1-ylmethanesulfonamide (VIa) (23.5 g, 72.9 mmol) and N,N-Diisopropylethylamine (DIPEA) (55.8 mL, 320 mmol) in N,N-dimethylacetamide (DMAC) (470 mL). The solution was heated at 120° C. until the amine (1S,2R,4R)—N-benzyl-2-amino-7,7-dimethylbicyclo[2.2.1]hept-1-ylmethanesulfonamide (VIa) was <2% by HPLC analysis. The mixture was cooled to ambient temperature and diluted with toluene (470 mL) and was extracted with water (470 mL). After layer separation, the toluene layer was washed twice with 10% aq. NaCl (230 mL each) and concentrated to give the crude product as a brown solid. The sulfonamide (1S,2R,4R)—N-benzyl-2-morpholino-7,7-dimethylbicyclo[2.2.1]hept-1-ylmethanesulfonamide (IIa) was crystallized from a mixture of toluene (23 mL) and n-heptane (47 mL) by slowly cooling from 75° C. to 60° C., stirring at 60° C. for an hour and then cooling to ambient temperature, followed by the addition of n-heptane (70 mL) and stirring for an hour. The suspension was filtered and the powder was washed with a mixture of toluene and n-heptane (1:5, 47 mL) to give (1S,2R,4R)—N-benzyl-2-morpholino-7,7-dimethylbicyclo[2.2.1]hept-1-ylmethanesulfonamide (IIa) as an orange to light brown powder (22.2 g; 78%; 98.9% pure as assessed by HPLC).

reactant | Bis(2-bromoethyl)ether | 146 mmol, 18.3 mL | BrCCOCCBr | C4H8Br2O
reactant | (1S,2R,4R)—N-benzyl-2-amino-7,7-dimethylbicyclo[2.2.1]hept-1-ylmethanesulfonamide | 72.9 mmol, 23.5 g | C(C1=CC=CC=C1)NS(=O)(=O)C[C@@]12[C@@H](C[C@@H](CC1)C2(C)C)N | C17H26N2O2S
reactant | N,N-Diisopropylethylamine | 320 mmol, 55.8 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylacetamide | 470 mL | CN(C(C)=O)C | C4H9NO
solvent | toluene | 470 mL | C1(=CC=CC=C1)C | C7H8
product | (1S,2R,4R)—N-benzyl-2-morpholino-7,7-dimethylbicyclo[2.2.1]hept-1-ylmethanesulfonamide | C(C1=CC=CC=C1)NS(=O)(=O)C[C@@]12[C@@H](C[C@@H](CC1)C2(C)C)N2CCOCC2 | C21H32N2O3S
